US09278950B2
Step 1. 1-tert-Butyl 2-methyl (2S)-5-oxopyrrolidine-1,2-dicarboxylate
Thionyl chloride (5.6 mL, 77 mmol) was added dropwise over 10 min. to a solution of (2S)-5-oxopyrrolidine-2-carboxylic acid (Aldrich, 5.0 g, 39 mmol) in MeOH (30.0 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 2 h. The reaction was concentrated under reduced pressure and the resulting residue was dissolved in EtOAc (25 mL). After slow addition of triethylamine (5.4 mL, 39 mmol), the mixture was filtered. DMAP (0.48 g, 3.9 mmol) was added to the filtrate, followed by di-tert-butyl dicarbonate (8.4 g, 39 mmol) and the mixture was stirred at room temperature for 2 h. The reaction mixture was then diluted with EtOAc (25 mL) and cooled to 0° C. 1 M HCl (50 mL) was added slowly. The organic layer was separated, washed with a saturated aq. NaHCO3 (50 mL) and brine (50 mL), then dried over Na2SO4 and concentrated to give the sub-title compound as a white solid (8.08 g, 86%). LCMS calc. for C11H17NNaO5 (M+Na)+: m/z=266.1. found 266.1.

reactant | Thionyl chloride | 77 mmol, 5.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (2S)-5-oxopyrrolidine-2-carboxylic acid | 39 mmol, 5.0 g | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | triethylamine | 39 mmol, 5.4 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 39 mmol, 8.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | MeOH | 30.0 mL | CO | CH4O
catalyst | DMAP | 3.9 mmol, 0.48 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-tert-Butyl 2-methyl (2S)-5-oxopyrrolidine-1,2-dicarboxylate | 8.08 g, 86% | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
